US03978093
A mixture of 9.96 g. (60 mmol.) of 2-methoxy-3-acetyl-1-hepten-5-yne, 0.50 g. of Lindlar catalyst, and 10 drops of synthetic quinoline in 100 ml. of ethyl acetate was stirred under one atmosphere of hydrogen until hydrogen absorption was complete, then filtered, concentrated and distilled to afford (Z)-2-methoxy-3-acetyl-1,5-heptadiene; b.p. 64°-66°, (2.0 mmHg).

reactant | 2-methoxy-3-acetyl-1-hepten-5-yne | 60 mmol | COC(=C)C(CC#CC)C(C)=O | C10H14O2
reactant | hydrogen | [H][H] | H2
catalyst | Lindlar catalyst | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
catalyst | quinoline | 10 drops | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (Z)-2-methoxy-3-acetyl-1,5-heptadiene | COC(=C)C(C\C=C/C)C(C)=O | C10H16O2
